US05965059
(1-2) Synthesis of 2-fluoro-2-trifluoromethyloctanamide
Into a solution of 1.30 g of 2-fluoro-2-trifluoromethyl-4-octenamide in 13 ml of methanol, palladium-carbon (13 mg) was added under nitrogen. After the atmosphere was replaced with hydrogen, the mixture was stirred for 24 hours. To remove the catalyst, the resulting mixture was filtered with celite and the filtrate was concentrated. The raw product was purified by silica gel column chromatography to obtain 1.0 g of the desired compound.

reactant | 2-fluoro-2-trifluoromethyl-4-octenamide | 1.30 g | FC(C(=O)N)(CC=CCCC)C(F)(F)F | C9H13F4NO
reactant | hydrogen | [H][H] | H2
solvent | methanol | 13 ml | CO | CH4O
catalyst | palladium-carbon | 13 mg | [C].[Pd]
product | 2-fluoro-2-trifluoromethyloctanamide | 1.0 g | FC(C(=O)N)(CCCCCC)C(F)(F)F | C9H15F4NO
